US08975400B2
tert-butyl 7-((3-cyano-4-(3-fluoro-5-(trifluoromethyl)phenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from NaH, 2-(3-fluoro-5-(trifluoromethyl)phenoxy)-5-(hydroxymethyl)benzonitrile and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | NaH | [H-].[Na+]
reactant | 2-(3-fluoro-5-(trifluoromethyl)phenoxy)-5-(hydroxymethyl)benzonitrile | FC=1C=C(OC2=C(C#N)C=C(C=C2)CO)C=C(C1)C(F)(F)F | C15H9F4NO2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl 7-((3-cyano-4-(3-fluoro-5-(trifluoromethyl)phenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(#N)C=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=CC(=C1)C(F)(F)F)F | C26H22F4N4O5
